data/oMe_Silver.jsonl
{"reaction_id": "NR-320_1-C_2-Br_3-c1ccccc1_4-F_5-OC_6-Cc1ccccc1_7-C(C)C","level": "hard","name": "Willgerodt-Kindler Reaction","reactants_smiles": ["CC(=O)c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC)","N(Cc1ccccc1)(C(C)C)","S1SSSSSSS1"],"products_smiles": ["N(Cc1ccccc1)(C(C)C)C(=S)Cc1c(C)c(Br)c(c1ccccc1)c(F)c1(OC)"],"conditions": "Heat","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C=C(N(Cc1ccccc1)(C(C)C))c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by resonance withdrawal from the aromatic ring, forming an imine-like intermediate after dehydration."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+](Cc1ccccc1)(C(C)C)=C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))CSSSSSSS[S-]","step_weight": 0,"rationale": "The iminium carbon is electrophilic; polysulfide sulfur attacks, displacing a leaving group due to sulfur’s high nucleophilicity and polarizability."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(Cc1ccccc1)(C(C)C)C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))=CSSSSSSSS","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charge, driven by the basicity of nitrogen and the polar environment."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(Cc1ccccc1)(C(C)C)C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))C=[S+]SSSSSSSS","step_weight": 0,"rationale": "Another proton shift occurs to activate the sulfur atom for subsequent nucleophilic addition, aligning charges for stability."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N+](Cc1ccccc1)(C(C)C)2C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))C2SSSSSSSS","step_weight": 0,"rationale": "Nucleophilic sulfur attacks the activated iminium carbon, favored by the soft–soft interaction between sulfur and the polarized carbon."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))=C(N(Cc1ccccc1)(C(C)C))SSSSSSSS","step_weight": 0,"rationale": "Elimination of a proton restores conjugation and relieves ring strain, driven by thermodynamic stability of the conjugated system."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1c(C)c(Br)c(c1ccccc1)c(F)c1(OC))C(N(Cc1ccccc1)(C(C)C))=[S+]SSSSSSS","step_weight": 0,"rationale": "Proton transfer reorganizes the intermediate to place positive charge on sulfur, enhancing its leaving group ability for the next substitution."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N(Cc1ccccc1)(C(C)C)C(=S)Cc1c(C)c(Br)c(c1ccccc1)c(F)c1(OC)","step_weight": 0,"rationale": "Final nucleophilic substitution by amine on the thiocarbonyl carbon occurs, favored by the electrophilicity of C=S and the good leaving ability of polysulfide."}],"description": "Under heating, the Willgerodt–Kindler reaction converts an aryl methyl ketone into a thiocarbonyl amide via sequential nucleophilic substitutions, proton transfers, and rearrangements. The amine and polysulfide react to form a thioamide, driven by resonance stabilization and favorable leaving group departure under thermal conditions."}
{"reaction_id": "NR-222_1-c1ccc(OC)cc1_2-c1ccc(Cl)cc1_3-c1ccccc1_4-c1ccsc1","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(c1ccc(OC)cc1)(C(O)(c1ccc(OC)cc1)C(c1ccc(Cl)cc1)(c1ccccc1)c1ccsc1)C(c1ccc(Cl)cc1)(c1ccccc1)c1ccsc1"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](c1ccc(OC)cc1)O[Mg]O[CH]C(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(C(c1ccc(OC)cc1)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
